US08623898B2
1-Methyl-N-(tetrahydro-2H-pyran-4-yl)-N-[3-(trifluoromethoxy)benzyl]-1H-1,2,4-triazole-3-carboxamide
To a solution of N-(tetrahydro-2H-pyran-4-yl)-N-[3-(trifluoromethoxy)benzyl]-1H-1,2,4-triazole-3-carboxamide (138 mg) in DMF (2 mL), sodium hydride (60%, 18 mg) was added and the resulting mixture was stirred for 10 minutes; thereafter, methyl iodide (35 μL) was added and the resulting mixture was stirred overnight at room temperature. To the reaction mixture, a saturated aqueous solution of sodium hydrogencarbonate was added and extraction was conducted with ethyl acetate. The ethyl acetate layer was washed with saturated saline and dried over anhydrous magnesium sulfate. After filtering off the desiccant, the filtrate was concentrated under reduced pressure and the resulting residue was purified by column chromatography (NH silica gel cartridge; hexane/ethyl acetate=1:0 to 1:3) to give the titled compound (75 mg).

reactant | N-(tetrahydro-2H-pyran-4-yl)-N-[3-(trifluoromethoxy)benzyl]-1H-1,2,4-triazole-3-carboxamide | 138 mg | O1CCC(CC1)N(C(=O)C1=NNC=N1)CC1=CC(=CC=C1)OC(F)(F)F | C16H17F3N4O3
reactant | sodium hydride | 18 mg | [H-].[Na+]
reactant | methyl iodide | 35 μL | CI | CH3I
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-Methyl-N-(tetrahydro-2H-pyran-4-yl)-N-[3-(trifluoromethoxy)benzyl]-1H-1,2,4-triazole-3-carboxamide | 75 mg | CN1N=C(N=C1)C(=O)N(CC1=CC(=CC=C1)OC(F)(F)F)C1CCOCC1 | C17H19F3N4O3
